US04791110
3,6-dichloro-4-(1-hydroxymethyl-1-methylbutyl)pyridazine
Twenty g. of 3,6-dichloropyridazine was alkylated with 44.4 g. of 2-methyl-2-propyl-1,3-propanediol, following the process of Preparation 3 above. In this case the chromatography was run with 3:1 heptane:ethyl acetate as the eluant, and the residue from evaporation of the combined product-containing fractions was recrystallized from diethyl ether/heptane to obtain 0.43 g. of the desired intermediate product, m.p. 99°-100°.

reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | 2-methyl-2-propyl-1,3-propanediol | CC(CO)(CO)CCC | C7H16O2
solvent | heptane | CCCCCCC | C7H16
product | 3,6-dichloro-4-(1-hydroxymethyl-1-methylbutyl)pyridazine | ClC=1N=NC(=CC1C(CCC)(C)CO)Cl | C10H14Cl2N2O
